US04270948
Preparation of Methyl α-[4-(4-Trifluoromethylphenoxy)phenoxy]propionate
10 g of α-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid was reacted with 80 g of methanol in the presence of 5 g of boron trifluoride at 55° to 60° C. for 3 hours. The reaction product was poured into water, and extracted with chloroform. The extract was washed with dilute alkali (i.e., 2-3% NaOH aqueous solution) and water, and dried. Then, the chloroform was evaporated off. The residue was distilled at reduced pressure to afford 7.5 g of the final product having a boiling point of 165° to 167° C./3 mmHg. The yield was 74%.

reactant | α-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid | 10 g | FC(C1=CC=C(OC2=CC=C(OC(C(=O)O)C)C=C2)C=C1)(F)F | C16H13F3O4
reactant | methanol | 80 g | CO | CH4O
reactant | boron trifluoride | 5 g | B(F)(F)F | BF3
solvent | water | O | H2O
product | Methyl α-[4-(4-Trifluoromethylphenoxy)phenoxy]propionate | 7.5 g, yield was 74% | FC(C1=CC=C(OC2=CC=C(OC(C(=O)OC)C)C=C2)C=C1)(F)F | C17H15F3O4
